US07452905B2
Process 6 Synthesis of 2,6-dichloro-4-tetrazolylbenzoic Acid
The mixture of 110 mg of 2,6-dichloro-4-tetrazolylbenzoic acid methylester, 0.5 ml of dichloromethane solution containing 1M BBr3 and 5 ml of dichloromethane was stirred overnight. The obtained substance was treated by an ordinary method using dichloromethane as an extractant and purified by reverse phase HPLC to obtain the title compound.

reactant | 2,6-dichloro-4-tetrazolylbenzoic acid methylester | 110 mg | COC(C1=C(C=C(C=C1Cl)C1=NN=NN1)Cl)=O | C9H6Cl2N4O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 2,6-dichloro-4-tetrazolylbenzoic Acid | ClC1=C(C(=O)O)C(=CC(=C1)C1=NN=NN1)Cl | C8H4Cl2N4O2
